US07772226B2
724 mg of [7-(2-chlorophenyl)-1-methyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl 2,2-dimethylpropionate was suspended in 15 ml of N,N-dimethylformamide, and 760 mg of N-chlorosuccinimide was added thereto. The reaction solution was stirred overnight, and then diluted with ethyl acetate. The solution was washed with water and 1N hydrochloric acid, and dried over anhydrous magnesium sulfate, then filtered. The filtrate was concentrated. Thus, 764 mg of [8-chloro-7-(2-chlorophenyl)-1-methyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl 2,2-dimethylpropionate was obtained. This compound was mixed with 4 g of t-butyl piperazine-1-carboxylate. The mixture was heated at 150° C., and stirred for three hours. Ethyl acetate and water were added to the reaction mixture, and the mixture was separated. The organic layer was washed with 1N hydrochloric acid, and dried over anhydrous magnesium sulfate, then filtered. The filtrate was concentrated. The residue was purified by silica gel column chromatography. Thus, 724 mg of the title compound was obtained from the fraction eluted with hexane-ethyl acetate (3:2).

reactant | [7-(2-chlorophenyl)-1-methyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl 2,2-dimethylpropionate | 724 mg | CC(C(=O)OCN1C(N(C(C=2N(C=NC12)C1=C(C=CC=C1)Cl)=O)C)=O)(C)C | C18H19ClN4O4
reactant | N-chlorosuccinimide | 760 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [8-chloro-7-(2-chlorophenyl)-1-methyl-2,6-dioxo-1,2,6,7-tetrahydropurin-3-yl]methyl 2,2-dimethylpropionate | 764 mg | CC(C(=O)OCN1C(N(C(C=2N(C(=NC12)Cl)C1=C(C=CC=C1)Cl)=O)C)=O)(C)C | C18H18Cl2N4O4
